US05847155
1-[(2-Carboxy-1-cyclopenten-1-yl)carbonyl]-L-proline, 2-methyl ester
2.76 (20 mmol) of 1-cyclopentene-1,2-dicarboxylic anhydride was dissolved in 50 ml of THF at 25° C. under a nitrogen atmosphere. The solution was cooled to 10° C. and 3.31 g (20 mmol) of L-proline methyl ester HCl was added, followed by 2.78 ml (20 mmol) Et3N, which produced a slight exothermic reaction. The mixture was heated at reflux for 12 hours, cooled and the solvent removed under reduced pressure. The residue was dissolved in methylene chloride and the solution was washed with 1N hydrochloric acid and brine. The organic phase was then dried over magnesium sulfate and evaporated in vacuo to afford the title compound which crystallized from methylene chloride/ether as an off-white solid (4.20 g; 79%). TLC (90:10/CH2Cl2 :MeOH): Rf =0.35. 1 H NMR δ: 8.15-8.42(bs,1H); 4.35-4.60(m,1H); 3.38-3.76(m,5H); 2.48-2.98(m,4H); 1.70-2.32(m,6H).

reactant | 1-cyclopentene-1,2-dicarboxylic anhydride | C12=C(CCC1)C(=O)OC2=O | C7H6O3
reactant | L-proline methyl ester HCl | 20 mmol, 3.31 g | Cl.COC([C@H]1NCCC1)=O
reactant | Et3N | 20 mmol, 2.78 ml | CCN(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-[(2-Carboxy-1-cyclopenten-1-yl)carbonyl]-L-proline, 2-methyl ester | C(=O)(O)C1=C(CCC1)C(=O)N1[C@H](C(=O)OC)CCC1 | C13H17NO5
